US04112241
To a reactor similar to that described in Example 1 were added 3.3 g (20 millimoles) of potassium iodide, 1 ml (10 millimoles) of nitric acid, 0.5 g of activated carbon prepared from coconut shells (manufactured by Dai-ichi Carbon Industries Company) and 80 ml of acetic acid. The flask was set up in an oil bath maintained at 65° C. A gas mixture comprising by volume 8.5% of oxygen, 80% of nitrogen and 11.5% of ethylene was fed through the reaction mixture at a rate of 1.15 standard liters per hour with continuous stirring of the reaction mixture. At the conclusion of the one hour reaction period, the conversion of ethylene was 90%. The combined yields of EGDA and EGMA were 95% based on the reacted ethylene. Trace amounts of EDA and AcH were detected as by-products.

reactant | potassium iodide | 20 millimoles, 3.3 g | [I-].[K+]
reactant | nitric acid | 10 millimoles, 1 ml | [N+](=O)(O)[O-] | HNO3
reactant | oxygen | O=O | O2
reactant | ethylene | C=C | C2H4
reactant | acetic acid | 80 ml | C(C)(=O)O | C2H4O2
product | EGDA | CC(=O)OCCOC(=O)C | C6H10O4
